US07208122B2
1,4-Dibromo-2,5-dinaphthylbenzene (AA).
Adapted from literature procedure reported by M. Goldfinger et al. A 100 ml Schlenk flask was charged with 1,4-dibromo-2,5-diiodobenzene (0.93 g, 1.91 mmol), naphthalene boronic acid (0.72 g, 4.19 mmol), triphenylphosphine (0.075 g, 0.29 mmol), palladium tetrakistriphenylphosphine (0.022 g, 0.019 mmol), and KOH (2.2 g, 39 mmol). To this mixture, 5 mL deionized H2O and 20 mL nitrobenzene were introduced via syringes. The resulting mixture was initially purged with a rapid stream of Argon, then was evacuated and refilled with argon five times before it was heated to 90° C. in an oil bath. After maintaining at this temperature for 24 hrs, the solvent was removed by distillation under high vacuum. The residue was transferred into a filtration funnel and successively washed with 100 mL H2O, 20 mL acetone and 20 mL cold chloroform. Drying of the rinsed solids under vacuum afforded an off-white powder (0.65 g, 70%).

reactant | 1,4-dibromo-2,5-diiodobenzene | 1.91 mmol, 0.93 g | BrC1=C(C=C(C(=C1)I)Br)I | C6H2Br2I2
reactant | naphthalene boronic acid | 4.19 mmol, 0.72 g | C1(=CC=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | triphenylphosphine | 0.29 mmol, 0.075 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | KOH | 39 mmol, 2.2 g | [OH-].[K+]
reactant | nitrobenzene | 20 mL | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
solvent | H2O | O | H2O
product | 1,4-Dibromo-2,5-dinaphthylbenzene | 0.65 g, 70% | BrC1=C(C=C(C(=C1)C1=CC=CC2=CC=CC=C12)Br)C1=CC=CC2=CC=CC=C12 | C26H16Br2
